US07723329B2
A mixture of 1-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yl]ethanol (0.13 g, 0.38 mmoles), methane sulfonic anhydride (0.16 g, 0.95 mmoles), and triethylamine (0.13 ml, 0.95 mmole) was stirred in CH2Cl2 from 0° C. to room temperature for 5 hours to afford methanesulfonic acid 1-[3-(naphthalene-1-sulfonyl)-1-H-indazol-5-yl]-ethylester. This reaction mixture was treated with excess N-methyl-piperazine (0.22 g, 2 mmoles). The crude product was purified by flash chromatography using 5% MeOH/CH2Cl2 to afford the title compound; Mp: 183-185° C., MS (ES) m/z 433.1.

reactant | 1-[3-(naphthalene-1-sulfonyl)-1H-indazol-5-yl]ethanol | 0.38 mmoles, 0.13 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)C(C)O | C19H16N2O3S
reactant | methane sulfonic anhydride | 0.95 mmoles, 0.16 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | triethylamine | 0.95 mmole, 0.13 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 1-[3-(naphthalene-1-sulfonyl)-1-H-indazol-5-yl]-ethylester | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)C(C)OS(=O)(=O)C | C20H18N2O5S2
